US08110585B2
1-acetyl-4-bromo-1H-indazole
To a mixture of 3-bromo-2-methylaniline (2.00 mL, 16.0 mmol) and potassium acetate (1.60 g, 16.3 mmol) in toluene (160 mL) was added acetic anhydride (4.54 mL, 48.0 mmol) at room temperature, and the mixture was stirred at 60° C. for 30 min. Isoamyl nitrite (3.22 mL, 24.0 mmol) was added, and the mixture was stirred at 60° C. for 18 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound as a crudely purified product.

reactant | 3-bromo-2-methylaniline | 16.0 mmol, 2.00 mL | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | potassium acetate | 16.3 mmol, 1.60 g | C(C)(=O)[O-].[K+]
reactant | acetic anhydride | 48.0 mmol, 4.54 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Isoamyl nitrite | 24.0 mmol, 3.22 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-acetyl-4-bromo-1H-indazole | C(C)(=O)N1N=CC2=C(C=CC=C12)Br | C9H7BrN2O
